US06399601B1
2-Cyano-4H-furo[3,2-b]pyrrole-5-carboxylic Acid
2-Formyl4H-furo[3,2-b]pyrrole-5-carboxylic acid (see, for example, Krutosikova, A.; Dandarova, M.; Alfoldi, J., Chem. Pap., 48: 268-73 (1994)) was treated with hydroxylamine hydrochloride according to Procedure G.

reactant | 2-Formyl4H-furo[3,2-b]pyrrole-5-carboxylic acid | C(=O)C1=CC=2NC(=CC2O1)C(=O)O | C8H5NO4
reactant | hydroxylamine hydrochloride | Cl.NO
product | 2-Cyano-4H-furo[3,2-b]pyrrole-5-carboxylic Acid | C(#N)C1=CC=2NC(=CC2O1)C(=O)O | C8H4N2O3
